US09340491B2
S-(2-cyanomethylphenyl)methylisothiourea hydrochloride
The 2-chlormethylphenylacetonitrile (200 mg, 1.21 mmol) and thiourea (101 mg, 1.33 mmol) were mixed in 1 ml of methanol. The mixture was heated to reflux for 3 to 4 hours. The reaction mixture was evaporated. After that, 1 ml of methanol and 4 ml of acetone were added and the mixture was stirred for one hour. The crystalline material was filtered and the product was dried under high vacuum overnight to yield 231 mg (0.95 mmol, yield 79%) of product as off white crystals, with purity greater than 95%. 1H NMR (300 MHz, d6-DMSO) δ 4.14 (s, 2H), 4.56 (s, 2H), 7.37 (m, 2H), 7.45 (m, 2H), 9.23 (s, 4H). (M+H) 205.97

reactant | 2-chlormethylphenylacetonitrile | 1.21 mmol, 200 mg | ClCC1=C(C=CC=C1)CC#N | C9H8ClN
reactant | thiourea | 1.33 mmol, 101 mg | NC(=S)N | CH4N2S
solvent | methanol | 1 ml | CO | CH4O
product | S-(2-cyanomethylphenyl)methylisothiourea hydrochloride | 0.95 mmol, 231 mg, yield 79% | Cl.C(#N)CC1=C(C=CC=C1)CSC(N)=N | InChI=1S/C10H11N3S.ClH/c11-6-5-8-3-1-2-4-9(8)7-14-10(12)13;/h1-4H,5,7H2,(H3,12,13);1H
